US06159990
a. N-Benzyloxycarbonyl-3-(4-hydroxy-4-phenylpiperidin-1-yl)propylamine
A mixture of 4-hydroxy-4-phenylpiperidine (5 g, 0.0282 mol), N-benzyloxycarbonyl-3-bromopropylamine (8.445 g, 0.031 mol), and potassium carbonate (7.795 g, 0.0564 mole) in acetone (200 mL) was stirred and refluxed for 12 hours. Acetone was evaporated at reduced pressure, the residue was treated with ice-cold water (400 mL) and extracted with CH2Cl2 (4×120 mL). Solvent was evaporated from the combined dried (sodium sulfate) extracts and the residue was found to be almost pure desired product (9.5 g, 91%) by tlc and 1H-NMR and was used as such without any further purification.

reactant | 4-hydroxy-4-phenylpiperidine | 0.0282 mol, 5 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | N-benzyloxycarbonyl-3-bromopropylamine | 0.031 mol, 8.445 g | C(C1=CC=CC=C1)OC(=O)NCCCBr | C11H14BrNO2
reactant | potassium carbonate | 0.0564 mole, 7.795 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | N-Benzyloxycarbonyl-3-(4-hydroxy-4-phenylpiperidin-1-yl)propylamine | C(C1=CC=CC=C1)OC(=O)NCCCN1CCC(CC1)(C1=CC=CC=C1)O | C22H28N2O3
